US04410527
From 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and methyl chlorocarbonate in a mixture of dioxane and toluene, 4,9-dihydro-4-methoxycarbonyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one was obtained;

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | methyl chlorocarbonate | C(OC)(=O)Cl | C2H3ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,9-dihydro-4-methoxycarbonyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | COC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H10N2O3S
